US08895547B2
[5-(3-Benzyloxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]cyclohexylamine
At room temperature, a solution of 1.00 g of 1-(3-benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide and 0.45 ml of cyclohexyl isothiocyanate in 6.5 ml of NMP was admixed with 1.49 ml of a 2 N solution of sodium bis(trimethylsilyl)amide in THF. After stirring for 45 minutes, the conversion was checked by means of LCMS. Since the reaction was still incomplete, an additional 0.22 ml cyclohexyl isothiocyanate and 0.74 ml of a 2 N solution of sodium bis(trimethylsilyl)amide in THF were added. After stirring for 20 minutes, 0.53 g of N-bromosuccinimide was added and the mixture was stirred at room temperature for a further hour. The reaction solution was admixed with 150 ml of water and extracted twice with 100 ml of ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC, and the product-containing fractions were freed of the organic solvent under reduced pressure. The aqueous residue was lyophilized. This gave the product (587 mg) with a molecular weight of 442.6 g/mol (C24H30N2O4S); MS (ESI): m/e=443 (M+H+).

reactant | 1-(3-benzyloxyphenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 1.00 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C)(C)O)S(=O)(=O)N | C17H21NO4S
reactant | cyclohexyl isothiocyanate | 0.45 ml | C1(CCCCC1)N=C=S | C7H11NS
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclohexyl isothiocyanate | 0.22 ml | C1(CCCCC1)N=C=S | C7H11NS
reactant | N-bromosuccinimide | 0.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | NMP | 6.5 ml | CN1CCCC1=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | [5-(3-Benzyloxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]cyclohexylamine | 587 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1S(N=C(OC1(C)C)NC1CCCCC1)(=O)=O | C24H30N2O4S
